US07517910B2
methyl 3-[4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoate
To a solution of 2-phenylindole (0.17 g, 0.86 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (60% in oil, 35 mg, 0.86 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 10 min. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (0.25 g, 0.78 mmol) was added to the obtained mixture and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, and the mixture washed with 5% aqueous potassium hydrogensulfate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=3/1) to give the title compound (0.17 g, yield 46%) as a colorless oil. 1H NMR (CDCl3) δ: 2.59 (2H, t, J=7.8 Hz), 2.89 (2H, t, J=7.8 Hz), 3.66 (3H, s), 4.98 (2H, s), 5.38 (2H, s), 6.66 (1H, s), 6.88 (2H, d, J=8.7 Hz), 7.00-7.20 (7H, m), 7.29-7.47 (7H, m), 7.67 (1H, m).

reactant | 2-phenylindole | 0.86 mmol, 0.17 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | sodium hydride | 0.86 mmol, 35 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 0.78 mmol, 0.25 g | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-[4-({4-[(2-phenyl-1H-indol-1-yl)methyl]benzyl}oxy)phenyl]propanoate | 0.17 g, yield 46% | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C32H29NO3
